US08536164B2
Step 1: Preparation of 6-(methylsulfonyl)-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
Methanesulfonyl chloride (0.97 mL, 12.4 mmol) was added dropwise to a −10° C. solution of diisopropyl-ethylamine (5.16 mL, 31.1 mmol) and 6,7-dihydro-5H-pyrrolo[3,4-b]pyridine (2.0 g, 10.0 mmol) in CH2Cl2 (20 mL). The mixture was stirred overnight at rt diluted with CH2Cl2 (300 mL) and washed with saturated aqueous sodium bicarbonate. The organic phase was separated, dried (MgSO4) and filtered through a short silica gel pad with EtOAc rinse. The filtrate was concentrated to yield 2.15 g (quantitative) of Ex 10-Step 1 product as a solid which was used without further purification: LCMS m/z 199.2 (M+1); 1H NMR (400 MHz, CDCl3) δ 8.54 (d, J=4.9, 1H), 7.61 (d, J=7.8, 1H), 7.25 (dd, J=7.8, 5.1, 1H), 4.75 (AB quartet, JAB=2.1, ΔvAB=7.8, 4H), 2.94 (s, 3H).

reactant | Methanesulfonyl chloride | 12.4 mmol, 0.97 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropyl-ethylamine | 31.1 mmol, 5.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | 10.0 mmol, 2.0 g | N1=C2C(=CC=C1)CNC2 | C7H8N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-(methylsulfonyl)-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | CS(=O)(=O)N1CC2=NC=CC=C2C1 | C8H10N2O2S
